US07589076B2
2-{3-[1-((4-Chloro)phenoxycarbanoyl)piperidin-4-yl]propyn-1-yl}adenosine.
Batch: AB-10-015. 4-chlorophenyl 4-(prop-2-ynyl)piperidine-1-carboxylate, batch JR28-107 (0.624 g, 2.247 mmol) was added to a solution of 2-iodoadenosine (0.656 g, 1.669 mmol) according to general procedure 2. Yield: 0.445 g, 49%. 1H NMR (CD3OD) δ 8.30 (s, 1H), 7.37-7.07 (2×m, 4H), 5.93 (d, 1H), 4.71 (m, 2H), 4.31-4.17 (2×m, 3H), 3.91-3.75 (2×d, 2H), 3.07-2.93 (2×bt, 4H), 2.48 (d, 5H), 1.97-1.40 (2×m, 5H). m/z MH+=543.09. HPLC rt=7.3 min.

reactant | 4-chlorophenyl 4-(prop-2-ynyl)piperidine-1-carboxylate | C(C#C)C1CCN(CC1)C(=O)OC1=CC=C(C=C1)Cl | C15H16ClNO2
reactant | 2-iodoadenosine | 1.669 mmol, 0.656 g | IC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C10H12IN5O4
product | 2-{3-[1-((4-Chloro)phenoxycarbanoyl)piperidin-4-yl]propyn-1-yl}adenosine | ClC1=CC=C(OC(=O)N2CCC(CC2)CC#CC=2N=C(C=3N=CN([C@H]4[C@H](O)[C@H](O)[C@@H](CO)O4)C3N2)N)C=C1 | C25H27ClN6O6
